* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5208.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vS1 0 1
V2 vS2 0 2
V3 vS3 0 3
V4 vS4 0 4
V5 vS5 0 5
V6 vS6 0 6
V7 vS7 0 7
V8 vS8 0 8
V18 N001 0 15
V17 N002 0 -15
V19 vEN 0 PULSE(0 3 0 10n 10n 10u 20u)
R1 vD 0 301
C1 N001 0 0.1µ
C2 N002 0 0.1µ
C3 vD 0 36p
V20 vA0 0 3
V21 vA1 0 3
V22 vA2 0 3
X§U1 N001 vA0 vA1 vA2 N002 vEN vS1 vS2 vS3 vS4 vS5 vS6 vS7 vS8 vD 0 ADG5208
.tran 100u
* Notes:\nSwitch shown for a logic 0 input\nCrosstalk at -96 dB
.lib ADG5208.sub
.backanno
.end
